US06770617B2
A synthetic operation was carried out using oleoylaminopropyl-N,N-dimethylamine synthesized in the above Synthetic Example 15 and methyl chloride in the same manner as in Synthetic Example 13 to obtain the target N-oleoylaminopropyl-N,N,N-trimethylammonium chloride (a″-6).

reactant | oleoylaminopropyl-N,N-dimethylamine | C(CCCCCCC\C=C/CCCCCCCC)(=O)NCCCN(C)C | C23H46N2O
reactant | methyl chloride | CCl | CH3Cl
product | N-oleoylaminopropyl-N,N,N-trimethylammonium chloride | [Cl-].C(CCCCCCC\C=C/CCCCCCCC)(=O)NCCC[N+](C)(C)C | InChI=1S/C24H48N2O.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-21-24(27)25-22-20-23-26(2,3)4;/h12-13H,5-11,14-23H2,1-4H3;1H/b13-12-;
